US04567268
In a manner similar to that previously described, 1.14 gram of 80 percent pyridinium bromide perbromide (2.85 millimoles) was added to a cooled to 0° C. solution of 1.00 gram (2.59 millimoles) of di-t-butyl 2,6-dimethyl-4-phenyl-1,4-dihydropyridine-3,5-dicarboxylate and 0.81 milliliter of pyridine in 20 milliliters of dry chloroform. The resulting mixture was stirred for 30 minutes at 0° C. and then heated at reflux for 90 minutes. Thereafter, the mixture was cooled to room temperature, diluted with 200 milliliters of ethyl acetate and washed successively with 5 percent hydrochloric acid and brine, dried over magnesium sulfate, then filtered to remove the drying agent and the filtrate subjected to reduced pressure to vaporize the solvent and recover 0.90 gram of product as a yellow oil. The oil was chromatographed on 50 grams of silica gel using 1:1 ethyl acetate-hexane as eluant to obtain 250 milligrams (29 percent yield) of white crystalline t-butyl 2-methyl-4 -phenyl-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]pyridine-3-carboxylate product which after recrystallization from diethyl ether and drying at 70° C./0.05 millimeters Hg pressure for 48 hours and 100° C./0.005 millimeters Hg for 24 hours had a melting point of 185°-188° C. Elemental analyses for the product were as follows:

reactant | pyridinium bromide perbromide | 2.85 millimoles, 1.14 gram | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | di-t-butyl 2,6-dimethyl-4-phenyl-1,4-dihydropyridine-3,5-dicarboxylate | 2.59 millimoles, 1.00 gram | CC=1NC(=C(C(C1C(=O)OC(C)(C)C)C1=CC=CC=C1)C(=O)OC(C)(C)C)C | C23H31NO4
reactant | pyridine | 0.81 milliliter | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 20 milliliters | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 200 milliliters | C(C)(=O)OCC | C4H8O2
product | t-butyl 2-methyl-4 -phenyl-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]pyridine-3-carboxylate | 250 milligrams, 29 percent yield | CC1=C(C(C2=C(N1)COC2=O)C2=CC=CC=C2)C(=O)OC(C)(C)C | C19H21NO4
